US04042710
Diethylmalonate (80.0g) in ethyl alcohol (50 ml) was added to a solution of sodium ethoxide (prepared from sodium metal (13.0g) and absolute alcohol (400 ml)) over 15 minutes whilst gently refluxing the mixture. After stirring under reflux for 1 hour a solution of 2-bromopropane (74.5g) in alcohol (50 ml) was added over 1 hour and the mixture stirred under reflux overnight. The reaction mixture was cooled in ice and inorganic material removed by filtration and the filtrate concentrated. Water was added to the concentrate which was extracted with ether, the ethereal extracts washed with 2N sodium hydroxide solution (X2) and dried over magnesium sulphate. Removal of solvent gave an almost colourless liquid which was further purified by distillation to give diethyl isopropylmalonate b.p. 62°-65° C./0.7 mm Hg.

reactant | Diethylmalonate | 80.0g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | sodium ethoxide | 400 ml, 13.0g | [O-]CC.[Na+]
reactant | 2-bromopropane | 74.5g | BrC(C)C | C3H7Br
reactant | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | diethyl isopropylmalonate | C(C)(C)C(C(=O)OCC)C(=O)OCC | C10H18O4
